US05157114
a) 5'-O-Acetyl-2',3'-dideoxy-3'-fluorouridine
Acetic anhydride (1.2 ml, 13 mmol) was added to a solution of 2',3'-dideoxy-3'-fluorouridine (1 g, 4.34 mmol) in dry pyridine (10 ml) and the mixture was stirred at room temperature for 24 hours. Ethanol (2 ml) was added and the mixture was evaporated to dryness. Residual pyridine was removed by coevaporation with portions of ethanol and the final residue purified by silica gel column chromatography eluting with 5% MeOH/CH2Cl2 to give the title compound which was isolated following trituration with ether.

reactant | Acetic anhydride | 13 mmol, 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2',3'-dideoxy-3'-fluorouridine | 4.34 mmol, 1 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | Ethanol | 2 ml | C(C)O | C2H6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-Acetyl-2',3'-dideoxy-3'-fluorouridine | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)F | C11H13FN2O5
